US04181677
2-Benzoyl-3-butylaminocrotononitrile
A sample of 2.5 g. of 2-benzoyl-3-methoxycrotononitrile is dissolved in 10 ml. of n-butylamine. The solution is sealed in a stainless steel bomb and heated on a steam bath overnight. The bomb is then opened and the solvent evaporated under reduced pressure. A greenish oil is obtained which is distilled on a Kugelrohr apparatus at 200° C./0.1 mm. to obtain the yellow oily product.

reactant | 2-benzoyl-3-methoxycrotononitrile | C(C1=CC=CC=C1)(=O)/C(/C#N)=C(\C)/OC | C12H11NO2
reactant | n-butylamine | C(CCC)N | C4H11N
product | 2-Benzoyl-3-butylaminocrotononitrile | C(C1=CC=CC=C1)(=O)/C(/C#N)=C(\C)/NCCCC | C15H18N2O
